US05714496
Sodium hydride (2.0 g of a 60% dispersion in mineral oil) was added portionwise to methanol (30 ml) with stirring and cooling with an ice-bath. 2,5-Dibromopyridine (2.37 g) was added to the mixture and the mixture stirred at reflux for 16 hours. The methanol was removed by evaporation. Water (15 ml) was added to the residue and the mixture was extracted with dichloromethane (3×15 ml). The organic extracts were combined, dried (MgSO4) and evaporated to give 5-bromo-2-methoxypyridine (2.0 g) as an oil, NMR: 3.85(3H,s), 6.83(1H,d), 7.9(1H,dd) and 8.3(1H,d).

reactant | Sodium hydride | [H-].[Na+]
reactant | 2,5-Dibromopyridine | 2.37 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | methanol | 30 ml | CO | CH4O
product | 5-bromo-2-methoxypyridine | 2.0 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
